US06313122B1
A. 5-Hydroxyisatoic anhydride
To a solution of 5-hydroxyanthranilic acid (46.0 g, 300 mmol) in p-dioxane was added 1.93 M phosgene in toluene (186 mL, 360 mmol) and the resulting mixture stirred for 30 min. The mixture was heated at 65° C. for 4 h. After cooling, 1 N aqueous hydrochloric acid (150 mL) was added and the mixture stirred vigorously. The resulting precipitate was filtered and vacuum dried at 70° C./0.1 mm for 14 h to give 40.7 g (76%) of the title compound as a gray solid.

reactant | 5-hydroxyanthranilic acid | 300 mmol, 46.0 g | OC1=CC=C(C(C(=O)O)=C1)N | C7H7NO3
reactant | phosgene | 1.93 M | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 360 mmol, 186 mL | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | 1 N, 150 mL | Cl | ClH
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | 5-Hydroxyisatoic anhydride | 40.7 g, 76% | OC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H5NO4
